US07612114B2
Synthesized from 2-[1-(3-methoxyphenyl)pyrrolidin-3-yl]phenylamine and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl]{2-[1-(3-methoxyphenyl)pyrrolidin-3-yl]phenyl}amine (180 mg) was used according to an analogous synthetic method to Example 36 to provide [4-(2-azepan-1-ylethoxy)benzyl]ethyl{2-[1-(3-methoxyphenyl) pyrrolidin-3-yl]phenyl}amine (153 mg). The total amount of this compound was used according to an analogous synthetic method to Example 111 to provide the title compound (140 mg).

reactant | 2-[1-(3-methoxyphenyl)pyrrolidin-3-yl]phenylamine | COC=1C=C(C=CC1)N1CC(CC1)C1=C(C=CC=C1)N | C17H20N2O
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl]{2-[1-(3-methoxyphenyl)pyrrolidin-3-yl]phenyl}amine | 180 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC=C2)C2CN(CC2)C2=CC(=CC=C2)OC)C=C1 | C32H41N3O2
product | [4-(2-azepan-1-ylethoxy)benzyl]ethyl{2-[1-(3-methoxyphenyl) pyrrolidin-3-yl]phenyl}amine | 153 mg | N1(CCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC=C2)C2CN(CC2)C2=CC(=CC=C2)OC)CC)C=C1 | C34H45N3O2
